US09108977B2
To a solution of 167 mg of t-butyl 11-methyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate in 2 ml of dichloromethane were added 0.221 ml of triethylamine and 0.062 ml of ethyl isocyanate, followed by stirring at room temperature for 15 hours. To the reaction mixture were added 3 ml of toluene and 0.062 ml of ethyl isocyanate, followed by heating to 60° C. and stirring for 15 hours. Then, the reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 200 mg of t-butyl 1-(ethylcarbamoyl)-11-methyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate as a colorless viscous substance.

reactant | t-butyl 11-methyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 167 mg | CC=1C2=C(C=C3CCCNC13)CCN(CC2)C(=O)OC(C)(C)C | C19H28N2O2
reactant | triethylamine | 0.221 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 0.062 ml | C(C)N=C=O | C3H5NO
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl isocyanate | 0.062 ml | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | t-butyl 1-(ethylcarbamoyl)-11-methyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 200 mg | C(C)NC(=O)N1CCCC2=CC3=C(C(=C12)C)CCN(CC3)C(=O)OC(C)(C)C | C22H33N3O3
